US07417142B2
3-(10,20-Diphenyl-porphyrin-5-yloxy)-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one
The general procedure was used to couple 5-bromo-10,20-diphenylporphin (27.1 mg, 0.05 mmol) with estrone (27 mg, 0.1 mmol), using Pd2(dba)3 (2.3 mg, 0.0025 mmol) and DPEphos (5.38 mg, 0.01 mmol) in the presence of Cs2CO3 (37.6 mg, 0.1 mmol). The reaction was conducted in THF at 100° C. for 24 h. The title compound was isolated by flash chromatography (silica gel, methylene chloride: hexanes (v/v)=8:2) as a purple-red solid (20 mg, 55%). 1H NMR (300 MHz, CDCl3) δ 10.13 (s, 1H), 9.39 (d, J=4.8 Hz, 2H), 9.29 (d, J=4.8 Hz, 4H), 8.98 (d, J=4.8 Hz, 4H), 8.86 (d, J=4.8 Hz, 4H), 8.22 (m, 4H), 7.75 (m, 6H), 7.14 (d, J=9.0 Hz, 1H), 6.88 (d, J=8.4 Hz, 1H), 6.64 (d, J=1.8 Hz, 1H), 1.86-2.62 (m, H from estrone), 1.26-1.52 (m, H from estrone), 0.85 (s, 3H), −2.77 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 141.2, 138.1, 134.7, 133.0, 131.5, 130.8, 127.9, 127.8, 126.9, 126.5, 120.2, 119.7, 116.6, 114.1, 104.6, 50.3, 47.9, 44.0, 38.1, 35.8, 31.5, 29.4, 26.3, 25.8, 21.5, 13.8. UV-vis (CH2Cl2, Amax, nm): 413, 510, 544, 585, 641. HRMS-EI ([M]+): calcd for C50H42N4O2, 730.3308, found 730.3294.

reactant | 5-bromo-10,20-diphenylporphin | 0.05 mmol, 27.1 mg | BrC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C32H21BrN4
reactant | estrone | 0.1 mmol, 27 mg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | DPEphos | 0.01 mmol, 5.38 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | Cs2CO3 | 0.1 mmol, 37.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.0025 mmol, 2.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(10,20-Diphenyl-porphyrin-5-yloxy)-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | C1(=CC=CC=C1)C=1C=2C=CC(=C(C3=CC=C(N3)C(=C3C=CC(C=C4C=CC1N4)=N3)C3=CC=CC=C3)OC=3C=CC=4C1CCC5(C(CCC5C1CCC4C3)=O)C)N2 | C50H42N4O2
